US05066409
Preparation of bis[4-(3-trifluoromethylphenoxy)phenyl] sulfone
All apparatus is rigorously dried and flushed with nitrogen before use. The reaction is performed in a 250 mL 3-necked flask equipped with a mechanical stirrer, a reflux condenser topped with a nitrogen inlet tube, and a stopper. The flask is charged with 3-trifluoromethyl-phenol (11.29 g, 69.7 mmol), 4,4'-dichlorodiphenyl sulfone (10.00 g, 34.8 mmol), K2CO3 (15.00 g, 109 mmol) and DMF (125 mL). The reacting mixture is stirred and heated at reflux for 12 hours. The mixture is analyzed by gas chromatography, which showed that almost no starting materials remained. The reaction mixture is diluted with water, and the aqueous layer is removed to leave an oil. This oil is diluted with ether and washed with 5% NaOH to remove any acidic species. It is then washed with brine, dried with MgSO4, and the solvent removed on the rotary evaporator to leave a white crystalline solid. This solid is purified by column chromatography on flash grade silica gel using a 1:1 mixture of CH 2 Cl2 /Hexane as eluent. Further purification is accomplished by recrystallization of the white solid from ethanol to give white, diamond-shaped crystals (11.08 g, 59%), m.p. 96.5-97.5° C.

reactant | 3-trifluoromethyl-phenol | 69.7 mmol, 11.29 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 4,4'-dichlorodiphenyl sulfone | 34.8 mmol, 10.00 g | C1=CC(=CC=C1S(=O)(=O)C2=CC=C(C=C2)Cl)Cl | C12H8Cl2O2S
reactant | K2CO3 | 109 mmol, 15.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | bis[4-(3-trifluoromethylphenoxy)phenyl] sulfone | FC(C=1C=C(OC2=CC=C(C=C2)S(=O)(=O)C2=CC=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C26H16F6O4S
